US05731348
Part D: (3R,5S)-1-t-Butoxycarbonyl-5-carboxy-3 -methylpyrrolidine-2-one
To a solution of (3R,5S)-1-t-butoxycarbonyl-5-hydroxymethyl-3-methylpyrrolidine-2-one in a solvent mixture of acetonitrile:carbon tetrachloride:water (2:2:3, 266 mL) was added sodium periodate (3 eq, 24.0 g) and ruthenium trichloride (2.2 mol %, 0.174 g). The solution was stirred 2 hr at room temperature and then diluted by the addition of dichloromethane (500 mL) and brine (200 mL). The organic phase was separated and the aqueous phase was extracted with dichloromethane (3 x 200 mL). The combined organic phases were dried over Na2SO4 then celite added. The solution was filtered under suction through a bed of celite and the filtrate was evaporated to give an oily residue which was crystallized in ethyl acetate and hexane to give 5.03 g product (54%). The mother liquor was purified by flash column chromatography on silica gel, eluting with 70% ethyl acetate in hexane (with 1% of formic acid) to give an additional 1.21 g (13%) of the acid (total 67% yield in two steps). 1H NMR (200 MHz, CDCl3): δ 6.65 (br s, 1H), 4.60 (d, J=8.6, 0.9 Hz, 1H), 2.70 (m, 1H), 2.40 (dd, J=12.5, 8.8 Hz, 1H), 2.0 (m, 1H), 1.55 (s, 9H), 1.25 (d, J=7.0 Hz, 3H).

reactant | (3R,5S)-1-t-butoxycarbonyl-5-hydroxymethyl-3-methylpyrrolidine-2-one | C(C)(C)(C)OC(=O)N1C([C@@H](C[C@H]1CO)C)=O | C11H19NO4
reactant | acetonitrile carbon tetrachloride water | 266 mL | C(C)#N.C(Cl)(Cl)(Cl)Cl.O
reactant | sodium periodate | 24.0 g, 3 eq | I(=O)(=O)(=O)[O-].[Na+]
reactant | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | brine | 200 mL | [Cl-].[Na+].O
catalyst | ruthenium trichloride | 0.174 g | [Ru](Cl)(Cl)Cl
product | (3R,5S)-1-t-Butoxycarbonyl-5-carboxy-3 -methylpyrrolidine-2-one | 5.03 g, 54% | C(C)(C)(C)OC(=O)N1C([C@@H](C[C@H]1C(=O)O)C)=O | C11H17NO5
